US08957203B2
Step 3: Preparation of tert-butyl (2R,6S,7R,13aS,14aR,16aS,Z)-14a-(1-(fluoromethyl)cyclopropylsulfonylcarbamoyl)-2-(2-(4-isopropoxyphenyl)-7-methoxyquinolin-4-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-ylcarbamate
To a solution of tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-14a-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate (150 mg, 0.238 mmole) and 4-chloro-2-(4-isopropoxyphenyl)-7-methoxyquinoline (93 mg, 0.284 mmole) in DMSO (8 mL) was added t-BuOK (133 mg, 1.19 mmol, 1 M solution in THF, 1.2 mL) at room temperature under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 2 h. The reaction mass was quenched with aqueous citric acid solution and extracted with ethyl acetate (10 mL×2). The combined organic layer was washed with water, brine solution, dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound. The crude compound was purified by HPLC to get 130 mg (60%) of desired compound tert-butyl (2R,6S,7R,13aS,14aR,16aS,Z)-14a-(1-(fluoromethyl)cyclopropylsulfonylcarbamoyl)-2-(2-(4-isopropoxyphenyl)-7-methoxyquinolin-4-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-ylcarbamate as white solid. MS: MS m/z 921.5 (M++1).

reactant | tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-14a-(((1-(fluoromethyl)cyclopropyl)sulfonyl)carbamoyl)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | 0.238 mmole, 150 mg | FCC1(CC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H]([C@@H](CC(CC\C=C/[C@@H]1C2)C)C)NC(OC(C)(C)C)=O)=O)C[C@@H](C3)O)=O | C29H45FN4O8S
reactant | 4-chloro-2-(4-isopropoxyphenyl)-7-methoxyquinoline | 0.284 mmole, 93 mg | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC(C)C | C19H18ClNO2
reactant | t-BuOK | 1.19 mmol, 1 M, 1.2 mL, 133 mg | CC(C)(C)[O-].[K+]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | tert-butyl (2R,6S,7R,13aS,14aR,16aS,Z)-14a-(1-(fluoromethyl)cyclopropylsulfonylcarbamoyl)-2-(2-(4-isopropoxyphenyl)-7-methoxyquinolin-4-yloxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-ylcarbamate | 130 mg, 60% | FCC1(CC1)S(=O)(=O)NC(=O)[C@]12NC([C@H]3N(C([C@H]([C@@H](CC(CC\C=C/[C@@H]1C2)C)C)NC(OC(C)(C)C)=O)=O)C[C@@H](C3)OC3=CC(=NC2=CC(=CC=C32)OC)C3=CC=C(C=C3)OC(C)C)=O | C48H62FN5O10S
